### PR TITLE
Formalization of the Erdős 1065 problems.

### LINKED ISSUE #1107: Erdős Problem 1065
### What is the conjecture

https://www.erdosproblems.com/1065

  Are there infinitely many primes $p$ such that $p=2^kq+1$ for some prime $q$ and $k\geq 0$? Or $p=2^k3^lq+1$?

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by szabadka**
fixes #1107

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1065.lean [hunk 1]
```diff
@@ -0,0 +1,47 @@
...
+ -/
+@[category research open, AMS 11]
+theorem erdos_1065a :
+    Set.Infinite {p | ∃ (q : ℕ) (k : ℕ), p.Prime ∧ q.Prime ∧ p = 2^k * q + 1}
+    ↔ answer(sorry) := by
+  sorry
+
+/--
+Are there infinitely many primes $p$ such that $p$ = $2^k 3^l q + 1$
+for some prime $q$ and $k ≥ 0$, $l >= 0$?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1065.lean]:
```suggestion
for some prime $q$ and $k ≥ 0$, $l ≥ 0$?
```
for consistency. Or use `\ge`, which should also be rendered correctly in latex markdown.

File: FormalConjectures/ErdosProblems/1065.lean [hunk 2]
```diff
@@ -0,0 +1,47 @@
...
+-/
+@[category research open, AMS 11]
+theorem erdos_1065b :
+    Set.Infinite {p | ∃ (q : ℕ) (k : ℕ) (l : ℕ), p.Prime ∧ q.Prime ∧ p = 2^k * 3^l * q + 1}
+    ↔ answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1065.lean]:
```suggestion
theorem erdos_1065b : Set.Infinite {p | ∃ q k l, p.Prime ∧ q.Prime ∧ p = 2^k * 3^l * q + 1}
    ↔ answer(sorry) := by
```
No need to specify the type for `q k l` here (if you really want to then `∃ (q k l : ℕ)` also works

File: FormalConjectures/ErdosProblems/1065.lean [hunk 3]
```diff
@@ -0,0 +1,47 @@
...
+
+namespace Erdos1065
+
+/--
+Are there infinitely many primes $p$ such that $p$ = $2^k * q + 1$
+for some prime $q$ and $k ≥ 0$?
+ -/
+@[category research open, AMS 11]
+theorem erdos_1065a :
+    Set.Infinite {p | ∃ (q : ℕ) (k : ℕ), p.Prime ∧ q.Prime ∧ p = 2^k * q + 1}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1065.lean]:
```suggestion
    Set.Infinite {p | ∃ q k, p.Prime ∧ q.Prime ∧ p = 2^k * q + 1}
```

File: FormalConjectures/ErdosProblems/1065.lean [hunk 4]
```diff
@@ -0,0 +1,47 @@
...
+# Erdős Problem 1065
+
+*Reference:* [erdosproblems.com/1065](https://www.erdosproblems.com/1065)
+-/
+
+namespace Erdos1065
+
+/--
+Are there infinitely many primes $p$ such that $p$ = $2^k * q + 1$
+for some prime $q$ and $k ≥ 0$?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1065.lean:29]:
```suggestion
for some prime $q$ and $k ≥ 0$?

This is mentioned as B46 
in [Unsolved Problems in Number Theory](https://doi.org/10.1007/978-0-387-26677-0)
by *Richard K. Guy*
```
